US07425568B2
2-(2,6-Difluorophenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 4.45 g of 2-(2,6-difluorophenyl)-6-hydroxychroman-4one. 1H NMR (400 MHz, d6-DMSO) δ: 8.87 (s, 1H), 7.48 (m, 1H), 7.17-7.13 (m, 2H), 6.90 (d, 1H, J 2.9 Hz), 6.55-6.54 (m, 2H), 5.46 (dd, 1H, J 12.2, 1.8 Hz), 4.87 (m, 1H), 2.37 (m, 1H), 2.23 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 2-(2,6-difluorophenyl)-6-hydroxychroman-4one | 4.45 g | FC1=C(C(=CC=C1)F)C1OC2=CC=C(C=C2C(C1)=O)O | C15H10F2O3
product | 2-(2,6-Difluorophenyl)chroman-4,6-diol | FC1=C(C(=CC=C1)F)C1OC2=CC=C(C=C2C(C1)O)O | C15H12F2O3
